US08193359B2
4-[5-(4-Cyanofuro[3,2-c]pyridin-2-yl)-[1,2,4]oxadiazol-3-ylmethyl]piperidine-1-carboxylic acid cyclobutyl ester
A mixture of cyclobutyl alcohol (32.6 mg, 452 μmol), triphosgene (44.7 mg, 151 μmol), anhydrous THF (4 mL), and NEt3 (91.6 mg, 905 μmol) was stirred for 30 min. This mixture was added to a stirred solution of 2-(3-piperidin-4-ylmethyl-[1,2,4]oxadiazol-5-yl)furo[3,2-c]pyridine-4-carbonitrile (Preparation 15, 35 mg, 113 μmol) in anhydrous THF (2 mL). After 30 min, the reaction mixture was treated with CH2Cl2 (20 mL) and H2O (10 mL), then, after thorough mixing, the organic layer was separated using a fritted hydrophobic filter. The aqueous phase was extracted with CH2Cl2 (10 mL), the CH2Cl2 layer being isolated by means of a fritted hydrophobic filter. The combined CH2Cl2 solutions were evaporated, then the residue was purified by column chromatography (EtOAc-IH, 1:1) to furnish the title compound: RT=3.84 min; m/z (ES+)=408.1 [M+H]+.

reactant | cyclobutyl alcohol | 452 μmol, 32.6 mg | C1(CCC1)O | C4H8O
reactant | triphosgene | 151 μmol, 44.7 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NEt3 | 905 μmol, 91.6 mg | CCN(CC)CC | C6H15N
reactant | 2-(3-piperidin-4-ylmethyl-[1,2,4]oxadiazol-5-yl)furo[3,2-c]pyridine-4-carbonitrile | 113 μmol, 35 mg | N1CCC(CC1)CC1=NOC(=N1)C1=CC=2C(=NC=CC2O1)C#N | C16H15N5O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-(4-Cyanofuro[3,2-c]pyridin-2-yl)-[1,2,4]oxadiazol-3-ylmethyl]piperidine-1-carboxylic acid cyclobutyl ester | C1(CCC1)OC(=O)N1CCC(CC1)CC1=NOC(=N1)C1=CC=2C(=NC=CC2O1)C#N | C21H21N5O4
